US08071584B2
Ethyl 5-bromo-3-(2,6-dimethyltetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate
2,6-Dimethyltetrahydro-4H-thiopyran-4-one (0.293 g, 2.03 mmol) was dissolved in dichloromethane (35 mL) in an oven dried flask containing 3 Å molecular sieves and stirred under argon at 0° C. TMS-OTf (0.451 g, 2.03 mmol, 0.36 mL) was added slowly to the mixture over 10 min. Ethyl 5-bromo-1H-indole-7-carboxylate (0.293 g, 2.031 mmol) was dissolved in DCM (10 mL) and added to the reaction via syringe pump over 2 hours, after which it was stirred for 3 hours between 0 and 10° C. The reaction was cooled to 0° C. and triethylsilane (0.353 g, 0.485 mL, 3.04 mmol) was then added all at once and the reaction was stirred at room temperature overnight. The reaction was then quenched with a saturated sodium bicarbonate solution, filtered, then extracted with DCM. The combined organics were washed with water. The combined aqueous layers were back-extracted with DCM. The combined organics were washed with brine, dried with MgSO4, and concentrated. The crude compound was purified on Combiflash silica column with 0-30% EA/DCM to give 0.212 g (26%) of the title compound.

reactant | 2,6-Dimethyltetrahydro-4H-thiopyran-4-one | 2.03 mmol, 0.293 g | CC1SC(CC(C1)=O)C | C7H12OS
reactant | TMS-OTf | 2.03 mmol, 0.36 mL, 0.451 g | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | Ethyl 5-bromo-1H-indole-7-carboxylate | 2.031 mmol, 0.293 g | BrC=1C=C2C=CNC2=C(C1)C(=O)OCC | C11H10BrNO2
reactant | triethylsilane | 3.04 mmol, 0.485 mL, 0.353 g | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 5-bromo-3-(2,6-dimethyltetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate | 0.212 g, 26% | BrC=1C=C2C(=CNC2=C(C1)C(=O)OCC)C1CC(SC(C1)C)C | C18H22BrNO2S
